US07691860B2
Preparation of 5-(2,4-difluorophenyl)-2-(trans-4-isopropylsulfonylaminocyclohexyl)imidazo[4,5-b]pyridine and its cis isomer
4-isopropylsulfonylaminocyclohexanecarboxylic acid as prepared easily from methyl 4-aminocyclohexanecarboxylate with 2-propanesulfonyl chloride, and 2,3-diamino-6-(2,4-difluorophenyl)pyridine were allowed to undergo ring-closure condensation under the same conditions as described in Example 1-3), followed by separatory purification on a collective thin-layer chromatograph (chloroform:methanol=20:1) to give the title compounds.

reactant | 4-isopropylsulfonylaminocyclohexanecarboxylic acid | C(C)(C)S(=O)(=O)NC1CCC(CC1)C(=O)O | C10H19NO4S
reactant | methyl 4-aminocyclohexanecarboxylate | NC1CCC(CC1)C(=O)OC | C8H15NO2
reactant | 2-propanesulfonyl chloride | CC(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | 2,3-diamino-6-(2,4-difluorophenyl)pyridine | NC1=NC(=CC=C1N)C1=C(C=C(C=C1)F)F | C11H9F2N3
product | 5-(2,4-difluorophenyl)-2-(trans-4-isopropylsulfonylaminocyclohexyl)imidazo[4,5-b]pyridine | FC1=C(C=CC(=C1)F)C1=CC=C2C(=N1)N=C(N2)[C@@H]2CC[C@H](CC2)NS(=O)(=O)C(C)C | C21H24F2N4O2S
